US07449474B2
Preparation of (2-chloro-pyrimidin-4-yl)-(4-fluoro-phenyl)-amine (2):
To a solution of 2,4-dichloropyrimidine (260 g, 1.75 mol) in THF (780 mL) and EtOH (3100 mL) is added NaHCO3 (244 g, 2.91 mol). To the slurry which results is added 4-fluoroaniline (162 g, 1.46 mol) in one portion and the resulting mixture allowed to warm to 65° C. and held at this temperature for 10 hours. The reaction if not completed in a single day can be cooled over night. Re-heating the next day to 70° C. for an additional 10 hours is usually sufficient for completion of the reaction. The reaction solution is diluted with EtOAc (4.5 L) and washed with water (3×2 L). The combined aqueous layers are extracted with EtOAc (3 L). The combined organic layers are dried over MgSO4 and filtered. The filter cake is washed with acetone (2×1 L) then with 5% MeOH/acetone (2×500 mL). The filtrate is concentrated until a thick slurry is obtained (ca. 1 L volume), hexane (3.5 L) is added and the solution cooled to about 4° C. for 16 hours. The thick slurry is collected by filtration, washed with hexane (2×500 mL), and dried (20 mmHg, room temperature) to afford 99.43 g (79.3% yield) of the desired product as a white solid. 1H NMR (300 MHz, CD3OD) δ 8.06 (d, J=6.0 Hz, 1H), 7.59 (m, 2H), 7.11 (m, 2H), 6.64 (d, J=6.0 Hz, 1H); MS (ESI) m/z 224 (M+1).

reactant | 2,4-dichloropyrimidine | 1.75 mol, 260 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | NaHCO3 | 2.91 mol, 244 g | C(=O)(O)[O-].[Na+]
reactant | 4-fluoroaniline | 1.46 mol, 162 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | THF | 780 mL | C1CCOC1 | C4H8O
solvent | EtOH | 3100 mL | CCO | C2H6O
solvent | EtOAc | 4.5 L | CCOC(=O)C | C4H8O2
product | (2-chloro-pyrimidin-4-yl)-(4-fluoro-phenyl)-amine | 99.43 g, 79.3% yield | ClC1=NC=CC(=N1)NC1=CC=C(C=C1)F | C10H7ClFN3
